US07968581B2
Step 1: (2S)-2-[(1,1-Dimethylethoxy)carbonylamino]-3-methylbutanoic acid [1-(4-cyano-3-trifluoromethylphenyl)-2,5-dioxo-3-methyl-4-phenylimidazolidin-4-yl]methyl ester
A solution of 0.3 g of 4-[2,5-dioxo-4-(hydroxymethyl)-3-methyl-4-phenylimidazolidin-1-yl]-2-trifluoromethylbenzonitrile, 0.217 g of (2S)-2-[(1,1-dimethylethoxy)carbonylamino]-3-methylbutanoic acid, 0.122 g of 4-dimethylamino pyridine and 0.3 g of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride in 50 mL of dichloromethane is stirred for 18 hours then poured into water and extracted with ethyl acetate. The organic layer is dried over magnesium sulfate, filtered and evaporated. The crude product is purified by chromatography over silica gel while eluting with 70/30 heptane/ethyl acetate mixture to provide the desired compound.

reactant | 4-[2,5-dioxo-4-(hydroxymethyl)-3-methyl-4-phenylimidazolidin-1-yl]-2-trifluoromethylbenzonitrile | 0.3 g | O=C1N(C(C(N1C)(C1=CC=CC=C1)CO)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F | C19H14F3N3O3
reactant | (2S)-2-[(1,1-dimethylethoxy)carbonylamino]-3-methylbutanoic acid | 0.217 g | CC(C)(OC(=O)N[C@H](C(=O)O)C(C)C)C | C10H19NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.3 g | Cl.CN(CCCN=C=NCC)C
reactant | water | O | H2O
catalyst | 4-dimethylamino pyridine | 0.122 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (2S)-2-[(1,1-Dimethylethoxy)carbonylamino]-3-methylbutanoic acid [1-(4-cyano-3-trifluoromethylphenyl)-2,5-dioxo-3-methyl-4-phenylimidazolidin-4-yl]methyl ester | C(#N)C1=C(C=C(C=C1)N1C(N(C(C1=O)(C1=CC=CC=C1)COC([C@H](C(C)C)NC(=O)OC(C)(C)C)=O)C)=O)C(F)(F)F | C29H31F3N4O6
